US07795272B2
To a chilled (−60° C.) solution of 0.254 mL (2.9 mmol) of oxalyl chloride in 5 mL of methylene chloride was added a solution of 0.414 mL (7 mmol) of DMSO in 2.5 mL of dichloromethane. After 10 minutes, a solution of 450 mg (1.46 mmol) of 1,1,1-trifluoro-3-(4-methyl-6-methylsulfanylchroman-4-yl)propan-2-ol in 2.5 mL of dichloromethane was added. The mixture stirred for 15 minuets and then 1.2 mL (8.7 mmol) of triethylamine was added. The reaction was warmed to room temperature for 30 minutes and then concentrated in vacuo. The residue was diluted with water and extracted with diethyl ether. The combined organic fractions were washed with four portions of water, once with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 340 mg (94%) of 1,1,1-trifluoro-3-(4-methyl-6-methylsulfanylchroman-4-yl)propan-2-one as an oil.

reactant | oxalyl chloride | 2.9 mmol, 0.254 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 7 mmol, 0.414 mL | CS(=O)C | C2H6OS
reactant | 1,1,1-trifluoro-3-(4-methyl-6-methylsulfanylchroman-4-yl)propan-2-ol | 1.46 mmol, 450 mg | FC(C(CC1(CCOC2=CC=C(C=C12)SC)C)O)(F)F | C14H17F3O2S
reactant | triethylamine | 8.7 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 1,1,1-trifluoro-3-(4-methyl-6-methylsulfanylchroman-4-yl)propan-2-one | 340 mg, 94% | FC(C(CC1(CCOC2=CC=C(C=C12)SC)C)=O)(F)F | C14H15F3O2S
